US08222424B2
A solution of 3 g of 1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester in methylene chloride (50 mL) is treated with 0.982 g of sodium hydroxide and stirred and room temperature overnight. Benzenesulfonylchloride (6.30 mL) is added to the reaction and stirred at room temperature overnight. The reaction mixture is diluted with water (250 mL) and extracted with methylene chloride. The organics are combined, washed with water then a saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. The residue is loaded on Celite and purified by silica gel chromatography (1:1 hexanes/ethyl acetate) to give 5-benzenesulfonyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester as a yellow powder. MS (m/z): 385 (M+1).

reactant | 1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester | 3 g | C(C)OC(=O)N1CC2=C(NC=3C=CC=CC23)CC1 | C14H16N2O2
reactant | sodium hydroxide | 0.982 g | [OH-].[Na+]
reactant | Benzenesulfonylchloride | 6.30 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 250 mL | O | H2O
product | 5-benzenesulfonyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N(C=3C=CC=CC23)S(=O)(=O)C2=CC=CC=C2)CC1 | C20H20N2O4S
